US05905088
(b) Preparation of 5-bromo-2-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)acetyl]thiophene
A solution of 3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol (4 g, 12.1 mmol), 2-bromoacetyl-5-bromothiophene (3.44 g, 12.1 mmol) and potassium carbonate (1.8 g, 13.3 mmol) in methyl ethyl ketone (100 ml), was heated under reflux for 3 h. The reaction medium was filtered and then concentrated in a rotary evaporator, and water and ethyl ether were added. After stirring and decantation, the organic phase was washed twice with water, dried over magnesium sulfate and concentrated in a rotary evaporator under vacuum at 40° C.

reactant | 3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ol | 12.1 mmol, 4 g | IC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C14H19IO
reactant | 2-bromoacetyl-5-bromothiophene | 12.1 mmol, 3.44 g | BrCC(=O)C=1SC(=CC1)Br | C6H4Br2OS
reactant | potassium carbonate | 13.3 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 5-bromo-2-[(3-iodo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)acetyl]thiophene | BrC1=CC=C(S1)C(COC1=CC=2C(CCC(C2C=C1I)(C)C)(C)C)=O | C20H22BrIO2S
